US08124766B2
A mixture of 4-chloro-benzo[b]thiophene-2-carboxylic acid (98 mg, 0.462 mmol), CH2Cl2 (5 mL), and a catalytic amount of DMF was stirred under Ar, and oxalyl chloride (2M in dichloromethane, 600 μL, 1.20 mmol) was dripped into the mixture over 5 min. The mixture was stirred at room temperature and after 1.0 hr the reaction was concentrated to dryness. Benzene was added and the solution was evaporated to dryness again. The white-yellow solid was re-dissolved in 5 mL of CH2Cl2 and dripped, under Ar, into a solution of 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester (134 mg, 0.462 mmol), and triethylamine (102 μL, 1.0 mmol) in 5 mL of dichloromethane. The reaction was stirred at room temperature for 0.5 hr and then concentrated and the residue was taken up in 50 mL of EtOAc and washed with 50 mL of saturated ammonium chloride, brine and dried over anhydrous sodium sulfate. The EtOAc solvent was removed and the product was triturated with diethyl ether and hexanes (1:1 ratio), followed by filtration, to afford the product, 4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester, as a pale green solid (80 mg, 38% yield). LCMS for C23H25ClN4O3S calcd. (m/e) 472, observed 471 (M−H).

reactant | 4-chloro-benzo[b]thiophene-2-carboxylic acid | 0.462 mmol, 98 mg | ClC1=CC=CC=2SC(=CC21)C(=O)O | C9H5ClO2S
reactant | oxalyl chloride | 1.20 mmol, 2M, 600 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(5-amino-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.462 mmol, 134 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)N | C14H22N4O2
reactant | triethylamine | 1.0 mmol, 102 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-{5-[(4-chloro-benzo[b]thiophene-2-carbonyl)-amino]-pyridin-2-yl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=C1)NC(=O)C1=CC2=C(S1)C=CC=C2Cl | C23H25ClN4O3S
